Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
cardiac arrest, coronary vasospasm 
 
Major Surgical or Invasive Procedure:
___ cardiac catheterization
___ right IJ central line placement
___ right arterial line placement
___ left arterial line placement
___ extubation
___ intubation
___ extubation

 
History of Present Illness:
___ with a PMH of of cardiac arrest ___ ___ s/p AICD, hepatitis 
C c/b cirrhosis, bipolar d/o, asthma, COPD and coronary 
vasospasm presented to ___ s/p cardiac arrest ___ 
the field. The patient was c/o indigestion outside of Wal___. 
She subsequently collapsed. EMS found the patient to be ___ a 
wide complex, pulseless tachyarrhythmia. She was administered 
150mg of amiodarone, 1 milligram of epinephrine and 2 milligrams 
of Narcan. Her blood sugar was 90. She was defibrillated and CPR 
was initiated. After defibrillation she developed a bradycardic 
rhythm. Her AICD reportedly fired 6 times. She was intubated ___ 
the field and initial ECG showed inferior STEMI. Blood pressure 
en route was 84/63, on arrival to ___ was 142/104. 
 
___ the OSH ED, initial vitals were 98 112 119/82 18. Labs and 
imaging significant for CXR with ETT ___ place and b/l patchy 
infiltrates.
The patient was given aspirin supp 300mg, versed, fentanyl, 
vecuronium, and heparin drip w/ bolus. Hypothermia protocol was 
initiated. 
 
Vitals signs on arrival to the ___ cath lab were: 110 119/82 
23 88% on vent. The patient was cathed through the right femoral 
artery. LMCA, LCx and LAD were angiographically normal. The 
right coronary artery showed severe proximal and distal PDA and 
PL branch spasm. This completely resolved with IC nitroglycerin. 
She was continued on a nitroglyercin gtt post cath.
 
On arrival to the floor, patient the patient is intubated and 
sedated. Her O2 saturation is ___ the mid to high ___.  Her 
extremities were cool to the touch. Pupils were pinpoint.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: 
(-)Diabetes,(-)Dyslipidemia,(+)Hypertension  
2. CARDIAC HISTORY:
-No documented history of CAD
-History of coronary spasm  
-S/p cardiac arrest (___)
-CABG:  
-PERCUTANEOUS CORONARY INTERVENTIONS:  
-PACING/ICD: AICD (___) at ___ after resuscitation at ___. OTHER PAST MEDICAL HISTORY:
Chronic hepatitis C
Polysubstance abuse
Bursitis
Bipolar I disorder, not on medication, multiple suidcide 
attempts
Eating disorder
Anxiety
Asthma
COPD
Memory loss
S/p reconstruction rotator cuff avulsion
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
Admission Physical Exam: 
GENERAL: Intubated, sedated. Breathing comfortably on vent.  
HEENT: NCAT. Sclera anicteric. Pupils pinpoint. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 6 cm.  
CARDIAC: PMI located ___ ___ intercostal space, midclavicular 
line. Tachycardic, regular rhythm, normal S1, S2. No m/r/g. No 
thrills, lifts. No S3 or S4.  
LUNGS: Intubated. No chest wall deformities, scoliosis or 
kyphosis. 
Diffuse wheezing and course breath sounds.
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: Cool. No c/c/e. No femoral bruits. Right groin site 
w/o hematoma/bruit.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ Radial 1+ 
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ Radial 1+
  

 
Pertinent Results:
Admission Labs:  
___ 12:40AM BLOOD WBC-6.1 RBC-5.38 Hgb-15.0 Hct-47.8 MCV-89 
MCH-27.8 MCHC-31.3 RDW-16.1* Plt ___
___ 12:40AM BLOOD Neuts-61 Bands-4 ___ Monos-0 Eos-0 
Baso-0 Atyps-1* Metas-1* Myelos-0
___ 12:40AM BLOOD ___ PTT-76.5* ___
___ 12:40AM BLOOD Glucose-116* UreaN-18 Creat-0.8 Na-138 
K-4.5 Cl-105 HCO3-21* AnGap-17
___ 12:40AM BLOOD ALT-71* AST-115* AlkPhos-122* TotBili-0.7
___ 01:49PM BLOOD CK-MB-118* MB Indx-18.1* cTropnT-1.05*
___ 12:40AM BLOOD Albumin-3.3* Calcium-6.9* Phos-6.4* 
Mg-1.6
___ 12:49AM BLOOD Lactate-2.2*
___ 12:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS Barbitr-NEG Tricycl-NEG
.
Urine Studies: 
___ 12:41AM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:41AM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-TR Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.5 Leuks-NEG
___ 12:41AM URINE RBC-18* WBC-19* Bacteri-FEW Yeast-NONE 
Epi-1
___ 12:41AM URINE CastGr-13*
___ 12:41AM URINE bnzodzp-POS barbitr-NEG opiates-NEG 
cocaine-POS amphetm-NEG mthdone-NEG
  
Cardiac enzymes:
___ 01:49PM BLOOD CK-MB-118* MB Indx-18.1* cTropnT-1.05*
___ 01:40AM BLOOD CK-MB-87*
___ 01:18PM BLOOD CK-MB-43* MB Indx-25.7* cTropnT-0.54*
___ 02:00AM BLOOD CK-MB-16* MB Indx-9.4* cTropnT-0.39*
 
Discharge labs:
___ 08:27AM BLOOD WBC-4.6 RBC-3.98* Hgb-11.0* Hct-33.3* 
MCV-84 MCH-27.6 MCHC-33.0 RDW-16.9* Plt Ct-86*
___ 08:27AM BLOOD Neuts-64.3 ___ Monos-2.9 Eos-2.2 
Baso-0.2
___ 08:27AM BLOOD Glucose-103* UreaN-12 Creat-0.5 Na-139 
K-3.5 Cl-107 HCO3-26 AnGap-10
___ 03:08AM BLOOD ALT-30 AST-38 AlkPhos-77 TotBili-1.1
___ 12:25PM BLOOD Calcium-7.8* Phos-2.9 Mg-2.0
   
   
MICRO:
___ Viral Culture-NEGATIVE; Respiratory Viral 
Antigen Screen-NEGATIVE
___ 3:20 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL LAVAGE. 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 
   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii).. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 
   ACID FAST CULTURE (Preliminary): 
___ 10:54 am SPUTUM      Source: Endotracheal. 
                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 
   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    RARE GROWTH.
___ CULTURE-FINAL NEGATIVE
___ Culture, Routine-FINALNEGATIVE
___ Culture, Routine-FINALNEGATIVE
___ 1:11 am SPUTUM      Source: Endotracheal. 
                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   YEAST(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
   RESPIRATORY CULTURE (Final ___: 
      RARE GROWTH Commensal Respiratory Flora.
___ Culture, Routine-FINALNEGATIVE
___ Culture, Routine-FINALNEGATIVE
___ 1:10 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R
   
  
IMAGING:
  
___  ECG:
Sinus tachycardia. Non-significant Q waves ___ leads II, III, and 
aVF with
T wave inversions. Consider inferior wall myocardial infarction. 
No previous
tracing available for comparison.
 
___ Cardiac Cath:
COMMENTS:     
1. Selective coronary angiography of this right dominant system 
revealed
no angiographically apparent coronary artery disease. The LMCA, 
LAD, and
LCx had no angiographically apparent coronary artery disease. 
The RCA
initial angiography showed severe proximal and distal PDA and PL 
branch
spasm, but following intracoronary nitroglycerine 
administration, the
spasm resolved entirely and there was no angiographically 
apparent
coronary artery disease.
2. Limited resting hemodynamics revealed boarderline low 
systolic
arterial blood pressure.
3. Successful hemostasis achieved with proglide device.
FINAL DIAGNOSIS:    
1. Acute inferior STEMI due to coronary spasm, likely related to 
cocaine
use.
2. Continue IV Nitroglycerine
3. Severe hypoxia likely due to aspiration.
4. Severe respiratory/metabolic acidosis.
5. Cooling protocol for cardiac arrest.
  
___ EEG:
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study due to
mild to moderate background slowing with brief bursts of 
frontally
predominant, generalized theta slowing suggestive of mild to 
moderate
encephalopathy but of non-specific etiology. These changes could 
be due to
therapeutic hypothermia, anesthetic medications, or hypoxic 
brain injury.
There are no epileptiform discharges, electrographic, or 
clinical seizures.
  
___ Echo:
The left atrium and right atrium are normal ___ cavity size. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thicknesses and cavity size are normal. There is moderate 
global left ventricular hypokinesis with severe hypokinesis to 
akinesis of the inferior wall (LVEF = 35%). The estimated 
cardiac index is borderline low (2.0-2.5L/min/m2). No masses or 
thrombi are seen ___ the left ventricle. A VSD is not seen but 
cannot fully be excluded due to suboptimal views. Tissue Doppler 
imaging suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). The right ventricular cavity is dilated with mild 
free wall hypokinesis of the mid to distal ventricle. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is borderline pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion. 
IMPRESSION: Moderate global left ventricular hypokinesis with 
severe hypokinesis to akinesis of the inferior wall. Dilated 
right ventricle with mid to distal free wall hypokinesis. Mild 
mitral regurgitation. Borderline pulmonary hypertension. 
 
___ CXR:
Severe multifocal pulmonary consolidation is accompanied by what 
looks like
moderately severe pulmonary edema ___ the right lung.  ___ the 
left lower lobe,
there is probably a component of volume loss, but overall the 
relative
contributions of lobar collapse, pneumonia, pulmonary hemorrhage 
and pulmonary
edema are really difficult to distinguish.  It is useful to note 
that the
heart is not enlarged and the mediastinal veins are not 
engorged.  At least a
moderate left pleural effusion is presumed.
Tip of the endotracheal tube, no more than 13 mm from the carina 
should be
withdrawn to 2 cm to avoid unilateral intubation.  An upper 
elementary tube
passes into the stomach and out of view.  Transvenous right 
atrial and right
ventricular pacer defibrillator leads are ___ standard 
placements.  No
pneumothorax
  
___ RUQ US:
IMPRESSION:
1.  Coarse echogenic liver, findings suggestive of cirrhosis.  
No focal hepatic lesion.
2.  Patent portal venous system with normal directional flow.
3.  Diffuse gallbladder wall edema likely secondary to chronic 
liver disease. No gallstones.
4.  Splenomegaly; minimal perihepatic ascites.
  
___ CXR:
CONCLUSION:
1.  Tubes and lines are ___ adequate position.
2.  Bilateral heterogeneous ground-glass opacities have worsened 
since
previous exam.  The differential diagnosis would include 
pulmonary edema or
pulmonary hemorrhage.
  
___ CTA Chest:
CONCLUSION:
1.  No pulmonary embolism or acute aortic syndrome.
2.  Bilateral ground-glass opacities and interlobular septal 
thickening are mostly secondary to pulmonary edema, considering 
the rapid change over the last days ___ chest x-rays.  This has 
significantly improved since ___. Differential 
includes spontaneous pulmonary hemorrhage, noncardiac edema. 
3.  Left lower lobe consolidation is probably a mix of 
atelectasis and aspiration pneumonia. It has improved since 
___.
  
___  CXR:
Widespread infiltrative pulmonary abnormality which worsened 
dramatically ___
the right lung between ___ and ___, already severe 
but worsened
___ the left lung simultaneously, first improved on ___ 
and has now
worsened again.  However, ___ the interim, the patient has been 
extubated, so
much of the change is due to lower lung volumes.  There is 
probably a
combination of residual edema as well as aspiration pneumonia 
and adhesive
atelectasis ___ the left lower lobe.  Small left pleural effusion 
is larger. 
Right jugular line ends ___ the mid SVC.  Transvenous right 
atrial pacer and
right ventricular pacer defibrillator leads are ___ their 
expected places.  No
pneumothorax.
 
Brief Hospital Course:
___ with a PMH of coronary vasospasm-induced cardiac arrest ___ 
___ s/p AICD, hepatitis C c/b cirrhosis, bipolar d/o, asthma, 
and COPD who presented to ___ s/p cardiac arrest ___ 
the field. Transferred to ___ for cath which showed RCA 
vasospasm and resulting inferior MI, subsequently cooled per 
post-arrest hypothermia protocol with no loss of neurological 
function.  Hospital course complicated by likely aspiration 
pneumonia requiring intubation and transfer from the CCU to the 
MICU for management of her ventilation.
 
Throughout her hospital stay, the patient displayed poor insight 
into the severity of her illness.  On hospital day 7, two days 
after extubation, the patient insisted on leaving the ICU 
against medical advice (AMA).  She was seen by psychiatry who 
deemed her competant to make her own medical decisions. She 
verbalized understanding of her medical conditions and the risks 
of the leaving the hospital prior to being deemed medically 
stable for discharge, which included worsening respiratory 
status, worsening infection, and even death.  She decided still 
to sign out AMA and left the hospital with limited prescriptions 
for her medications ___ order to get her through until her visit 
with her outpatient providers. 
 
ACTIVE ISSUES BY PROBLEM:
 
# ST-ELEVATION MYOCARDIAL INFARCTION: found on cath to have 
complete vasospasm of her RCA with resultant inferior MI, which 
was reversible with nitro.  ___ light of the positive cocaine ___ 
her tox screens, this is consistent with cocaine-induced 
coronary vasospasm.  She was transferred to the CCU initially on 
a nitro gtt, however she became hypotensive requiring 
vasopressors, so the nitro was then turned off.  Initially she 
continued to have intermittent ST elevations, which would 
subsequently self-resolve.  Echo showed severe hypo/akinesis ___ 
inferior wall and depressed EF of 35% as a result of the 
infarction.  She was restarted on metoprolol, aspirin 325, and 
imdur on discharge.  Would recommend consideration of a calcium 
channel blocker as an outpatient and avoidance of cocaine.  She 
also should likely have a repeat echo ___ 6 months to determine 
if there has been any recovery of systolic function.  She has a 
follow up appt with her cardiologist Dr. ___ on ___. 
  
# CARDIAC ARREST:  Patient experienced VFib arrest, resulting ___ 
___ successful AICD shocks ___ the field (per EP device 
interrogation), however last episode lasted 15 minutes and she 
was not able to be shocked out.  She was initially ___ to 
outside hospital.  She then was transferred to ___ for cardiac 
catheterization that showed RCA vasospasm, with Utox positive 
for cocaine (see above).  Intracoronary nitro was injected for 
vessel patency.  Following cath, the patient was transferred to 
the CCU.  The post-arrest care team was consulted, and she was 
subsequently cooled per post-arrest hypothermia protocol.  EEG 
did not show any seizure activity.  She was successfully 
rewarmed with no evidence of severe neurologic damage from her 
arrest.  She was not initiated on any further agents despite her 
refractory VT/VF, however may consider agents such as amiodarone 
as an outpatient.
  
# ASPIRATION PNEUMONIA, HYPOXIC/HYPERCARBIC RESPIRATORY FAILURE: 
 The patient has a history of COPD due to longterm smoking. No 
PFTs on record. She reportedly aspirated a large volume of 
gastric/feculant material after her arrest. CT chest from OSH 
demonstrated dense consolidations, left much worse than right, 
highly suspect for aspiration. O2 saturations initially mid ___ 
on arrival, with poor lung compliance noted on ventilator.  She 
was transitioned to the ARDsnet protocol, resulting ___ better 
ventilation and oxygenation. She was started on vancomycin and 
zosyn on ___ for pneumonia for a planned 8 day course.  She was 
also placed on standing albuterol/ipra nebs.  Her respiratory 
status gradually improved allowing extubation on ___, however 
she was extremely agitated and unable to follow commands and 
subsequently aspirated again that evening, resulting ___ 
re-intubation.   She was again extubated on ___ and was able 
to gradually wean down on oxygen requirements.  She was to 
finish her 8 day course of vancomycin and zosyn on ___, 
however given her decision to leave AMA, she was given another 
1.5 day supply of augmentin for oral antibiotic coverage. 
  
#  AGGRESSIVE BEHAVIOR:  the patient was extremely difficult to 
sedate on the ventilator and would repeatedly pull at tubes and 
lines, requiring restraints and large doses of sedation 
including precedex, propofol, fentanyl, and midazolam.  Upon 
extubation, she was verbally abusive and difficult to control 
behaviorally.  She was started on standing doses of haldol with 
additional PRN haldol and lorazepam used for acute escalations 
___ behavior.  Security was called a few times to assist ___ 
physically restraining her, and on the day that she left AMA, 
she kicked one of the physicians.  Psychiatry was involved and 
did deem her mentally competant to make her own decisions, so 
she was allowed to leave AMA after verbalizing an understanding 
of all the risks.  She would obviously benefit from further 
psychiatric care and substance abuse counseling as an 
outpatient.
 
# ACUTE SYSTOLIC HEART FAILURE:  per report, had previously had 
low EF following her arrest ___ ___ but her systolic function 
returned to normal on subsequent echo.  Her EF was found to be 
35% after this event.  Infiltrates ___ lungs related primary to 
infection, however likely did have some component of cardiogenic 
pulmonary edema.  Had just initiated diuresis prior to her 
leaving AMA, so she was not discharged on a standing diuretic.  
This will likely need to be started and titrated as an 
outpatient.  She should also have a follow up echo ___ 6 months.

INACTIVE ISSUES BY PROBLEM:
 
# COPD:  Diagnosis unconfirmed by PFTs.  She was continued on 
standing ipratropium/albuterol nebs. 
  
# BIPOLAR DISORDER:  restarted home aripiprazole after 
extubation.  Should follow up with her outpatient psychiatrist
  
# RESTLESS LEG SYNDROME:  Pramipexole held on admission.  
  
# GERD:  Omeprazole continued for GI prophylaxis.  
   
TRANSITIONAL ISSUES:
- STEMI:  should consider initiation of calcium channel blocker 
and re-echo ___ 6 months to determine if there is any recovery of 
systolic function.  Has appt with cardiologist Dr. ___ on 
___
- Cardiac arrest:  could consider amiodarone for recurrent VT/VF
- Pneumonia:  will complete treament on ___ with augmentin 
- CHF:  may need to start a diuretic as an outpatient, is 
currently not on any
- Substance abuse, mental illness:  Would benefit from further 
psychiatric care and addiction counseling as an outpatient
- EMERGENCY CONTACT: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
2. Aspirin 81 mg PO DAILY 
3. CloniDINE 0.1 mg PO BID 
4. Diazepam 20 mg PO QHS 
5. Fluticasone-Salmeterol Diskus (250/50)  2 INH IH BID 
6. Isosorbide Dinitrate ER 40 mg PO DAILY 
Do not crush  
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. pramipexole *NF* 0.5 mg Oral BID 

 
Discharge Medications:
1. Aripiprazole 30 mg PO DAILY 
RX *aripiprazole [Abilify] 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
2. CloniDINE 0.1 mg PO BID 
RX *clonidine 0.1 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*0
3. Diazepam 20 mg PO HS 
RX *diazepam 10 mg 2 tablets by mouth at bedtime Disp #*60 
Tablet Refills:*0
RX *diazepam 10 mg 2 tabs by mouth at night Disp #*12 Tablet 
Refills:*0
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate 90 mcg ___ puffs by mouth every ___ hours 
Disp #*1 Inhaler Refills:*0
5. Fluticasone-Salmeterol Diskus (250/50)  2 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/Dose 2 
puffs inhaled twice daily Disp #*1 Inhaler Refills:*0
6. Isosorbide Dinitrate ER 40 mg PO DAILY 
Do not crush  
RX *isosorbide dinitrate 40 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
7. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate [Toprol XL] 25 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
9. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
10. pramipexole *NF* 0.5 mg ORAL BID 
RX *pramipexole 0.5 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0
11. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 3 Doses 

Take through ___ for pneumonia 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
every 12 hours Disp #*3 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
- Cardiac arrest
- Myocardial infarction
- Aspiration pneumonia
- Acute systolic congestive heart failure
- Delirium
 
SECONDARY DIAGNOSES:
- Bipolar disorder
- Chronic obstructive pulmonary disease
- Substance abuse
- Restless leg syndrome

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 
 
You were admitted to ___ after 
you had a heart attack and your heart stopped.  You were 
resuscitated and put on a ventilator to help breathe for you.  
You developed a pneumonia, which was treated with antibiotics 
and has been improving. 
  
We felt that you were not quite ready to leave the hospital and 
needed at least 1 more day of IV antibiotics, however you have 
insisted on leaving against medical advice. 
 
You were VERY seriously ill and almost died while you were here, 
so it is extremely important that you follow up with your 
doctors and take your medications. 
 
Followup Instructions:
___